US09302991B2
<Step-2>: 4-((1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamoyl)-6-methylpicolinic acid (single enantiomer)
To a stirred solution of methyl 4-((1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamoyl)-6-methylpicolinate (160 mg, 0.37 mmol, Step-1, single enantiomer) in THF (5 mL) is added 2M aqueous sodium hydroxide (0.74 mL) at room temperature. The mixture is stirred at 50° C. overnight. After cooled to room temperature, the mixture is neutralized with 2M hydrochloric acid (0.74 mL) and extracted with ethyl acetate (5 mL×5). Combined organic layers are dried over sodium sulfate and concentrated under reduced pressure to give 86 mg (56% yield) of the title compound as a yellow amorphous solid.

reactant | methyl 4-((1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamoyl)-6-methylpicolinate | 0.37 mmol, 160 mg | ClC=1C=C(C=NC1OCC(F)(F)F)C(C)NC(=O)C1=CC(=NC(=C1)C)C(=O)OC | C18H17ClF3N3O4
reactant | sodium hydroxide | 2M, 0.74 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2M, 0.74 mL | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-((1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamoyl)-6-methylpicolinic acid | 86 mg, 56% yield | ClC=1C=C(C=NC1OCC(F)(F)F)C(C)NC(=O)C1=CC(=NC(=C1)C)C(=O)O | C17H15ClF3N3O4
